US05932571
Combine 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.31 g, 1 mmol) and dimethylformamide (8 mL). Cool in an ice-bath. Add sodium hydride (0.024 g, 1 mmol). After 2 hours, add 2-(methanesulfonyloxy)ethyl trifluoromethoxy ether (0.31 g, 1.5 mmol) and sodium iodide (0.14 g, 1 mmol). Heat to 80° C. After 6 hours, cool to ambient temperature. After 56 hours dilute the reaction mixture with ethyl acetate and extract brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with hexane, 30% ethyl acetate/hexane and then 50% ethyl acetate/hexane to give 1-(t-butoxycarbonyl)-4-(1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane; Rf =0.24 (silica gel, 50% ethyl acetate/hexane).

reactant | 1-(t-butoxycarbonyl)-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 1 mmol, 0.31 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 1 mmol, 0.024 g | [H-].[Na+]
reactant | 2-(methanesulfonyloxy)ethyl trifluoromethoxy ether | 1.5 mmol, 0.31 g | FC(OOCCOS(=O)(=O)C)(F)F | C4H7F3O5S
reactant | sodium iodide | 1 mmol, 0.14 g | [I-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 1-(t-butoxycarbonyl)-4-(1-(2-(trifluoromethoxy)ethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOC(F)(F)F)C=CC=C2 | C20H27F3N4O3
